Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: Painful temporal swelling

 
Major Surgical or Invasive Procedure:
Right Temporal Fluid Aspiration

 
History of Present Illness:
___ with hx melanoma w/ mets to R temporal lobe, s/p resection 
___ w/ Dr. ___ presenting temporal and orbital swelling 
since ___ and occasional double vision. He continues to 
complain of surgical site pain requiring
two tablets of sustained release oxycodone daily. He reports the
new symptom of double vision developed over the weekend. He 
reports it being episodic, eliminated by closing either eye, and 
sometime
can be overcome by concentrating. He denies HA or neck 
stiffness. He endorses low grade fevers to 99.9 and chills, but 
denies n/v, abd pain, SOB, chest pain or any newly infected skin 
lesions. The patient reports that the cellulitis for which he 
had been recently admitted is markedly improved.

In the ED, 97.4, 68, 125/84, 16, 98% RA. The patient was noted 
to have R eyelid droop. No erythema or tenderness to palpation. 
minimal pain with looking up. No double vision. Area of scarring 
on R temple swollen and boggy, no erythema or tenderness. 
Neurosurgery was consulted and tapped fluid collection on 
lateral head which yielded clear fluid consistent with CSF. CT 
head showed new foci in brain (? new metastasis). No evidence of 
infection. LP was attempted but was unsuccessful. Pt received 1L 
NS for lactate of 2.4.

The patient was admitted for further management. He reports that 
since the drainage of the fluid collection his eye sight feels 
improved and he does not have any more double vision.

 
Past Medical History:
Oncology history;
ONCOLOGIC HISTORY:
___ of 4.8mm thick ___ level IV melanoma from 
left
leg posteriorly.
-Wide local excision,neg lympadenopathy,no mets-->No adjuvant 
tr.
___ of new mass at right deltoid area-->melanoma
PET/CT: Increased uptake at right deltoid mass, right axilla and
right back.
Biopsies from axilla and back are neg.
___: Resection of 6.5cm SQ mass
___: Adjuvant interferon therapy 
___ CT: New 3cm soft tissue mass left side of abdomen
___ resection of jejunal mass with ___ lymph nodes
positive
___: Cycle #1 Week #1 of IL-2 therapy
___: IL-2 therapy stopped for presumed air embolus
___: CT Chest: Decrease in size of hepatic lesion. No new
areas of metastatic disease identified. 
___, head CT, no significant change, no evidence of
enhancing intraparenchymal or extraaxial lesion.  If there is a
strong clinical suspicion for intraparenchymal metastases, an 
MRI
with gadolinium is more sensitive for further characterization.
___, torso CT, previously seen hepatic lesion in segment 
VI
of liver is no longer identified, 1.9 x 1.6 omental nodule
increased in size from previous records (1.3 x 1.2).
___: Did not complete the second cycle of ___: abdominal metastatectomy at ___
___ MRI brain shows right temporal lesion
___ Frontal-temporal Craniotomy for mass resection 
with partial temporal lobectomy
___: MRI of head: Status post resection of right temporal 
lobe lesion. Expected post-surgical changes are identified. No 
acute infarcts or hydrocephalus. Subtle enhancement of the 
posterior margins of the surgical cavity noted. 

Other PMH:

1. Melanoma
2. Folliculitis
3. Migraine 
4. Seizure

PSH;
___: Right Frontal-temporal Craniotomy for mass resection 
with partial temporal lobectomy

 
Social History:
___
Family History:
No history of CAD, HTN, DM or cancer in mother, father or his 
one younger brother (his only sibling). No other history of 
cancer in the extended family.
 
Physical Exam:
Admission Exam:
VS: 96.1  148/98  60  18  99R
GEN: AOx3, NAD
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. No cervical, 
supraclavicular, or axillary LAD. R temple with fluctuant mass. 
Mild swelling of the R eye lid and resultant droop. No 
tenderness on palpation. Mild tenderness on outward gaze of R 
eye. No double vision
Cards: RR S1/S2 normal. no murmurs/gallops/rubs.
Pulm: No dullness to percussion, CTAB no crackles or wheezes
Abd: BS+, soft, NT, no rebound/guarding, no HSM, no ___ 
sign
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: excoriations over RUE, healing. excoriations over R 
forehead healing, numerous small lesions all appear to be 
healing
Neuro: CNs II-XII intact. ___ strength in U/L extremities. DTRs 
2+ ___. sensation intact to LT, cerebellar fxn intact (FTN, HTS). 
gait WNL. 
.  
Discharge Exam:
AVSS
Neuro: CNs II-XII intact. ___ strength in U/L extremities. DTRs 
2+ ___. sensation intact to LT, cerebellar fxn intact (FTN, HTS). 
gait WNL. 
 
Pertinent Results:
___ 03:29PM   PLT COUNT-278
___ 03:29PM   NEUTS-83.7* LYMPHS-11.5* MONOS-3.6 EOS-0.9 
BASOS-0.3
___ 03:29PM   WBC-18.6* RBC-4.14* HGB-12.4* HCT-35.0* 
MCV-85 MCH-29.9 MCHC-35.4* RDW-14.0
___ 03:29PM   CALCIUM-9.5 PHOSPHATE-3.9 MAGNESIUM-2.5
___ 03:29PM   ALT(SGPT)-20 AST(SGOT)-14 ALK PHOS-68 TOT 
BILI-0.2
___ 05:50PM   GLUCOSE-99 UREA N-20 CREAT-0.8 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-106 TOTAL CO2-22 ANION GAP-16
___ 06:53PM   ___ PTT-26.0 ___
___ 06:01PM   LACTATE-2.4*

CT head:
No acute hemorrahge. New rim enhancing foci in the left superior 
frontal lobe (1.4 x 1.4 cm) and the right medial temporal lobe 
(1.4 x 1.4 cm) suggest metastatic disease. Small right frontal 
subdural hygroma w/ slight leftward shift of midline structures 
similar to prior. Right frontal subgaleal low density fluid 
collection slightly increased but no associated soft tissue 
stranding, could represent seroma although infection not 
excluded. 
 
Brief Hospital Course:
___ with hx melanoma w/ mets to R temporal lobe, s/p resection 
___, that presented with CSFoma as evidence by CSF into leak 
subgaleal tissue and was ruled out for superinfection.
.
ACTIVE ISSUES:
# CSFoma: Pt underwent aspiration while in the ED. Give 
appearance and cell count on fluid (8WBC and 17RBC). there was 
initially concern for superinfected due to indolent pathogen in 
the context of significant immunosuppression on high dose 
steroids. The pt was started on Vanc/Cefepime. Gram stain was 
negative. Cx NGTD at time of discharge. Neurosurgery was 
consulted and agreed with diagnosis of CNSoma and recommended 
outpatient follow-up. 
- CSF Cx pending at discharge.
.  
# New brain lesions: Likely metastatic melanoma and concerning 
for worsening metastatic disease; less likely to be infectious. 
The pt was continued on Dexamethasone and topiramate for HA. 
Rad-Onc was consulted and recommended holding off currently 
treatment course.
- f/u with Rad-Onc as outaptient.
.
INACTIVE ISSUES:
# Seizures: Pt was continued on Keppra
.
TRANSITIONAL ISSUES:
- Pt to be contacted by Dr. ___ for oncological 
follow-up.

 
Medications on Admission:
dexamethasone 4 mg Tablet BID
levetiracetam 1000 mg Tablet BID
lorazepam 1 mg Tablet TID as needed for insomnia 
oxycodone [OxyContin] 30 mg Tablet Extended Release 12 hr BID
ranitidine HCl 150 mg Tablet BID
topiramate 50 mg Tablet BID

 
Discharge Medications:
1. topiramate 25 mg Tablet Sig: Three (3) Tablet PO BID (2 times 
a day).  
2. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
3. levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
4. oxycodone 10 mg Tablet Extended Release 12 hr Sig: Three (3) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours).  
5. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- CSFoma (fluid collection)
Secondary Diagnosis
- Malignant Melanoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with facial pain and swelling. 
This was found to be a collection of cerebral spinal fluid. You 
were given antibiotics but it was felt that this collection was 
not infected. You were evaluated by the Neurosurgery team that 
agreed with these findings.
.
Please continue to take all of your medications. We have made no 
changes to your regimen.
 
Followup Instructions:
___